US07144881B2
Preparation of {1-[3-(1-Amino-ethyl)-phenyl]-pyrrolidin-3-yl}-dimethyl-amine
A mixture of {1-[3-(3-dimethylamino-pyrrolidin-1-yl)-phenyl]-ethyl}-carbamic acid tert-butyl ester (1.8 g) and 4 ml of 4 N HCl in ethyl acetate (10 mL) at 50° C. was stirred for 2 h. After concentration, the residue was neutralized with 10 N NaOH and extracted with methylene chloride. The organic layer was washed with brine, dried over Na2SO4, and concentrated to give the crude product (1.25 g) as an oil.

reactant | {1-[3-(3-dimethylamino-pyrrolidin-1-yl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 1.8 g | C(C)(C)(C)OC(NC(C)C1=CC(=CC=C1)N1CC(CC1)N(C)C)=O | C19H31N3O2
reactant | HCl | 4 N, 4 ml | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | {1-[3-(1-Amino-ethyl)-phenyl]-pyrrolidin-3-yl}-dimethyl-amine | 1.25 g | NC(C)C=1C=C(C=CC1)N1CC(CC1)N(C)C | C14H23N3
